### PR TITLE
[Merged by Bors] - feat: `klDiv` and scalar multiplication

### PR DESCRIPTION
**Pull request by RemyDegenne**
The Kullback-Leibler divergence in Mathlib is defined for finite measures, not just probability measures. This PR adds lemmas that show how `klDiv` changes when we multiply one or both of the measures by a scalar.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 1]
```diff
@@ -169,8 +172,147 @@ lemma toReal_klDiv_eq_integral_klFun (h : μ ≪ ν) :
...
+  rw [toReal_klDiv hμν h_int, toReal_klDiv (hμν.smul_left c)]
+  swap
+  · refine Integrable.smul_measure_nnreal ?_
+    rw [integrable_congr h_llr]
+    fun_prop
+  simp only [integral_smul_nnreal_measure, measureReal_nnreal_smul_apply]
+  rw [integral_congr_ae h_llr, integral_add h_int (integrable_const _)]
+  simp only [integral_const, smul_eq_mul, smul_add]
+  have h_smul (a : ℝ) : c • a = c * a := rfl
+  simp only [h_smul]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean]:
```suggestion
  have h_smul (a : ℝ) : c • a = c * a := rfl
  simp [h_smul]
```

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 2]
```diff
@@ -169,8 +172,147 @@ lemma toReal_klDiv_eq_integral_klFun (h : μ ≪ ν) :
...
+
+lemma toReal_klDiv_smul_right_eq_smul_left (hμν : μ ≪ ν) (h_int : Integrable (llr μ ν) μ)
+    (c : ℝ≥0) :
+    (klDiv μ (c • ν)).toReal = c * (klDiv (c⁻¹ • μ) ν).toReal := by
+  by_cases hc : c = 0
+  · simp only [hc, zero_smul, NNReal.coe_zero, inv_zero, klDiv_zero_left, zero_mul]
+    rcases eq_zero_or_neZero μ with rfl | hμ <;> simp
+  have h_llr_left := llr_smul_left hμν c⁻¹ (by simp) (by simpa)
+  have h_llr_right := llr_smul_right hμν c (by simpa) (by simp)
+  simp only [Measure.coe_nnreal_smul, ENNReal.coe_toReal, ← ENNReal.coe_inv hc]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: Many times you do this `llr_smul_left`/`llr_smul_right` then `simp only`, you should use the `llr_smul_nnreal` versions instead.

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 3]
```diff
@@ -169,8 +172,147 @@ lemma toReal_klDiv_eq_integral_klFun (h : μ ≪ ν) :
...
+  rw [integral_congr_ae h_llr_smul_inv, mul_sub, mul_add, mul_inv_cancel_left₀ (by simpa),
+    mul_inv_cancel_left₀ (by simpa)]
+
+lemma toReal_klDiv_smul_right (hμν : μ ≪ ν) (h_int : Integrable (llr μ ν) μ)
+    {c : ℝ≥0} (hc : c ≠ 0) :
+    (klDiv μ (c • ν)).toReal =
+      (klDiv μ ν).toReal + (c - 1) * ν.real univ - log c * μ.real univ := by
+  rw [toReal_klDiv_smul_right_eq_smul_left hμν h_int c, toReal_klDiv_smul_left hμν h_int c⁻¹]
+  simp only [NNReal.coe_inv, log_inv, mul_neg, neg_mul, ← sub_eq_add_neg]
+  have hc' : (c : ℝ) ≠ 0 := by simpa
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: No need for this line
```suggestion
```

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 4]
```diff
@@ -169,8 +172,147 @@ lemma toReal_klDiv_eq_integral_klFun (h : μ ≪ ν) :
...
+  field_simp
+
+lemma toReal_klDiv_smul_both (hμν : μ ≪ ν) (h_int : Integrable (llr μ ν) μ) (c : ℝ≥0) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: I am not sure about the `both` in the name here. Maybe just `smul` or `smul_left_right` is better?

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 5]
```diff
@@ -169,8 +172,147 @@ lemma toReal_klDiv_eq_integral_klFun (h : μ ≪ ν) :
...
+  have h_int_right : Integrable (llr μ (c • ν)) μ := by
+    rw [integrable_congr (llr_smul_nnreal_right hμν c (by simpa))]
+    fun_prop
+  rw [← ENNReal.ofReal_toReal (klDiv_ne_top hμν_right h_int_right),
+    toReal_klDiv_smul_right_eq_smul_left hμν h_int c]
+  simp only [NNReal.zero_le_coe, ENNReal.ofReal_mul, ENNReal.ofReal_coe_nnreal]
+  rw [ENNReal.ofReal_toReal]
+  exact klDiv_ne_top (hμν.smul_left _) h_int_left
+
+lemma klDiv_smul_both [IsFiniteMeasure μ] [IsFiniteMeasure ν] (c : ℝ≥0) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: same

File: Mathlib/MeasureTheory/Measure/Decomposition/Lebesgue.lean [hunk 6]
```diff
@@ -672,6 +672,17 @@ theorem rnDeriv_smul_right_of_ne_top (ν μ : Measure α) [IsFiniteMeasure ν]
...
+theorem rnDeriv_smul_both (ν μ : Measure α) [IsFiniteMeasure ν]
+    [ν.HaveLebesgueDecomposition μ] {r : ℝ≥0} (hr : r ≠ 0) :
+    (r • ν).rnDeriv (r • μ) =ᵐ[μ] ν.rnDeriv μ := by
+  have h1 := rnDeriv_smul_left ν μ r
+  have h2 := rnDeriv_smul_right (r • ν) μ hr
+  refine h2.trans ?_
+  filter_upwards [h1] with x hx
+  simp only [Pi.smul_apply, hx]
+  simp only [ENNReal.smul_def, smul_eq_mul, ← mul_assoc, ENNReal.coe_inv hr]
+  rw [ENNReal.inv_mul_cancel (by simpa) (by simp), one_mul]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Decomposition/Lebesgue.lean]:
```suggestion
  filter_upwards [rnDeriv_smul_left ν μ r, rnDeriv_smul_right (r • ν) μ hr] with x hx1 hx2
  simp [hx1, hx2, hr]
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks! I am not sure about the naming `both`, is it used in other files?

**Comment by riccardobrasca** [comment]
bors merge
